US06518423B1
3-Amino-4-[(3-chloropyrazin-2-yl)thio]benzyl alcohol
1.60 g of 4-[(3-chloropyrazin-2-yl)thio]-3-nitrobenzyl alcohol was dissolved in a solvent mixture of tetrahydrofuran (20 ml)/2-propanol (20 ml)/water (7 ml). After adding 0.16 g of ammonium chloride and 1.50 g of iron powder, the resulting mixture was heated under reflux for 30 minutes. Then the reaction mixture was filtered through celite and concentrated under reduced pressure. After adding ethanol, the reaction mixture was concentrated under reduced pressure. Then tetrahydrofuran was added to the residue and the insoluble matters were separated by filtration. After distilling off the solvent under reduced pressure, 1.47 g of the title compound was obtained as yellow crystals.

reactant | 4-[(3-chloropyrazin-2-yl)thio]-3-nitrobenzyl alcohol | 1.60 g | ClC=1C(=NC=CN1)SC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C11H8ClN3O3S
reactant | ammonium chloride | 0.16 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
solvent | water | 7 ml | O | H2O
catalyst | iron | 1.50 g | [Fe] | Fe
product | 3-Amino-4-[(3-chloropyrazin-2-yl)thio]benzyl alcohol | 1.47 g | NC=1C=C(CO)C=CC1SC1=NC=CN=C1Cl | C11H10ClN3OS
